US08710049B2
To a round bottom flask was added azepan-4-ol (300 mg, 2.60 mmol), 1-fluoro-4-nitrobenzene (368 mg, 2.60 mmol), Cs2CO3 (1018 mg, 3.13 mmol) and DMF (5 mL). The reaction was stirred at 100° C. for 10 hrs. The reaction was diluted with EtOAc (50 ml), washed with water (4×20 ml) and saturated aqueous NaCl (25 ml). The organic layer was dried over MgSO4, filtered and concentrated. The resulting residue was purified using silica gel chromatography (ISCO system) eluting with a gradient of 0-100% EtOAc/He) to give the product, 1-(4-nitrophenyl)azepan-4-ol (480 mg, 2.032 mmol, 78% yield) as a light yellow solid. Anal. Calcd. for C12H16N2O3 m/z 236.2, found: 237.1 (M+H)+; 1H NMR (400 MHz, CDCl3) δ ppm 8.18-8.03 (m, 2H), 6.71-6.57 (m, 2H), 4.00 (br. s., 1H), 3.74-3.60 (m, 1H), 3.60-3.41 (m, 3H), 2.22-2.01 (m, 2H), 1.95-1.72 (m, 4H); 13C NMR (101 MHz, CDCl3) δ ppm 153.41, 136.89, 126.38, 110.02, 69.88, 49.24, 44.00, 35.87, 34.96, 21.59.

reactant | azepan-4-ol | 2.60 mmol, 300 mg | N1CCC(CCC1)O | C6H13NO
reactant | 1-fluoro-4-nitrobenzene | 2.60 mmol, 368 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 3.13 mmol, 1018 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 1-(4-nitrophenyl)azepan-4-ol | 2.032 mmol, 480 mg, 78% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CCC1)O | C12H16N2O3
